US06992087B2
(1R,2S)-1-[(3,6-dicyclopropylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol
Following the procedure for the preparation of (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3-chloro-2,5-dicyclopropylpyrazine and making non-critical variations provided the title compound as a solid: 1H NMR (CDCl3) δ 0.86-0.89, 2.00, 2.89, 3.11, 4.54, 5.17, 5.42, 6.22-6.24, 7.17-7.25, 7.64; MS (ESI+) for C19H21N3O m/z 308 (M+H)+.

reactant | (1R,2S)-1-[(3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C(C)C=1C(=NC(=CN1)CC)N[C@H]1[C@H](CC2=CC=CC=C12)O | C17H21N3O
reactant | 3-chloro-2,5-dicyclopropylpyrazine | ClC=1C(=NC=C(N1)C1CC1)C1CC1 | C10H11ClN2
product | (1R,2S)-1-[(3,6-dicyclopropylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | C1(CC1)C=1C(=NC(=CN1)C1CC1)N[C@H]1[C@H](CC2=CC=CC=C12)O | C19H21N3O
